US09416111B2
A mixture of ethyl rel-(1R,2S)-4-[1-(5-chloropyrimidin-2-yl)ethenyl]-2-methylcyclohexanecarboxylate (480 mg, 1.6 mmol), 4-(difluoromethyl)-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine (570 mg, 1.6 mmol), tris(dibenzylideneacetone)-dipalladium(0) (140 mg, 0.16 mmol), XPhos (140 mg, 0.32 mmol) and potassium phosphate tribasic trihydrate (1.25 g, 4.8 mmol) in N,N-dimethylformamide (2 mL) was stirred at 90° C. under a nitrogen atmosphere for 12 hours. After cooling to 20° C., the mixture was diluted with brine and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/petroleum ether) to afford ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}-2-methylcyclohexanecarboxylate. MS ESI calc'd for C28H32F2N5O2[M+G]+ 508. found 508. 1H NMR: (400 MHz, CD3OD) δ 9.02 (s, 2H), 8.64 (d, J=5.2 Hz, 1H), 8.01 (s, 1H), 7.60 (s, 1H), 7.21 (s, 1H), 7.04 (d, J=5.0 Hz, 1H), 6.58 (t, J=54.4 Hz, 1H), 6.36 (s, 1H), 5.52-5.49 (m, 1H), 4.16-4.10 (m, 2H), 2.44 (s, 3H), 1.94-1.59 (m, 7H), 1.25-1.24 (m, 5H), 1.03 (d, J=7.0 Hz, 3H).

reactant | ethyl rel-(1R,2S)-4-[1-(5-chloropyrimidin-2-yl)ethenyl]-2-methylcyclohexanecarboxylate | 1.6 mmol, 480 mg | ClC=1C=NC(=NC1)C(=C)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C | C16H21ClN2O2
reactant | 4-(difluoromethyl)-N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]pyrimidin-2-amine | 1.6 mmol, 570 mg | FC(C1=NC(=NC=C1)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)F | C18H22BF2N3O2
reactant | XPhos | 0.32 mmol, 140 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.16 mmol, 140 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl rel-(1R,2S)-4-{1-[5-(3-{[4-(difluoromethyl)pyrimidin-2-yl]amino}-5-methylphenyl)pyrimidin-2-yl]ethenyl}-2-methylcyclohexanecarboxylate | FC(C1=NC(=NC=C1)NC=1C=C(C=C(C1)C)C=1C=NC(=NC1)C(=C)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C)F | C28H31F2N5O2
